US05808062
4-Hydroxy-3-[(2-naphthalenylmethyl)thio]-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (0.475 g, 2.46 mmol) and dimethyl ester of [(2-naphthalenylmethyl)thio]propanedioic acid (0.500 g, 1.64 mmol). m.p. dec>250° C.; 1H NMR (250 MHz, DMSO-d6) δ 4.06 (s, 2 H), 6.47 (s, 1 H), 7.46 (m, 6 H), 7.78 (m, 6 H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 2.46 mmol, 0.475 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(2-naphthalenylmethyl)thio]propanedioic acid | 1.64 mmol, 0.500 g | C1=C(C=CC2=CC=CC=C12)CSC(C(=O)O)C(=O)O | C14H12O4S
product | 4-Hydroxy-3-[(2-naphthalenylmethyl)thio]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SCC1=CC2=CC=CC=C2C=C1 | C22H16O3S
